US07384967B2
3-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-propionic acid ethyl ester (48 mg, 96%) was prepared by hydrogenation of 3-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acrylic acid ethyl ester (0.05 g, 0.12 mmol) with Pd/C.

reactant | 3-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acrylic acid ethyl ester | 0.12 mmol, 0.05 g | C(C)OC(C=CC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C22H25N3O4S
catalyst | Pd/C | [Pd] | Pd
product | 3-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-propionic acid ethyl ester | 48 mg, 96% | C(C)OC(CCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C22H27N3O4S
